US09062032B2
To a mixture of 240 mg of methyl 4-(2-{4-[({2-[(3-{[{2-[(tert-butoxycarbonyl)amino]ethyl}(pentan-3-yl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate and 5.0 mL of methylene chloride was added 3.0 mL of TFA under ice cooling, followed by stirring for 1 hour at the same temperature and then stirring for 5 hours at room temperature. The reaction mixture was concentrated under reduced pressure, chloroform and a saturated aqueous sodium hydrogen carbonate solution were added thereto, followed by extraction with chloroform. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure, thereby obtaining 210 mg of methyl 4-(2-{4-[({2-[(3-{[(2-aminoethyl)(pentan-3-yl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate.

reactant | methyl 4-(2-{4-[({2-[(3-{[{2-[(tert-butoxycarbonyl)amino]ethyl}(pentan-3-yl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate | 240 mg | C(C)(C)(C)OC(=O)NCCN(C(CC)CC)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C45H56N4O6S
reactant | TFA | 3.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-(2-{4-[({2-[(3-{[(2-aminoethyl)(pentan-3-yl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate | 210 mg | NCCN(C(CC)CC)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C40H48N4O4S
